US07741321B2
(R)-1-(3-(Benzyloxy)-4-methoxyphenyl)-N-(6-(4-(2-(hydroxymethyl)pyrrolidin-1-ylsulfonyl)phenyl)pyridin-2-yl)cyclopropanecarboxamide (28 mg, 0.046 mmol) was dissolved in ethanol (3 mL). Palladium on charcoal (10%, 20 mg) was added and the reaction was stirred overnight under 1 atm of hydrogen. The catalyst was filtered off and the product was isolated by silica gel chromatography (50-80% EtOAc in hexane) to provide (R)-1-(3-hydroxy-4-methoxyphenyl)-N-(6-(4-(2-(hydroxymethyl)pyrrolidin 1-ylsulfonyl)phenyl)pyridin-2-yl)cyclopropanecarboxamide (8 mg, 34%). ESI-MS m/z calc. 523.4. found 524.3 (M+1)+. Retention time of 3.17 minutes.

reactant | (R)-1-(3-(Benzyloxy)-4-methoxyphenyl)-N-(6-(4-(2-(hydroxymethyl)pyrrolidin-1-ylsulfonyl)phenyl)pyridin-2-yl)cyclopropanecarboxamide | 0.046 mmol, 28 mg | C(C1=CC=CC=C1)OC=1C=C(C=CC1OC)C1(CC1)C(=O)NC1=NC(=CC=C1)C1=CC=C(C=C1)S(=O)(=O)N1[C@H](CCC1)CO | C34H35N3O6S
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 3 mL | C(C)O | C2H6O
catalyst | Palladium on charcoal | 20 mg | [Pd] | Pd
product | (R)-1-(3-hydroxy-4-methoxyphenyl)-N-(6-(4-(2-(hydroxymethyl)pyrrolidin 1-ylsulfonyl)phenyl)pyridin-2-yl)cyclopropanecarboxamide | 8 mg, 34% | OC=1C=C(C=CC1OC)C1(CC1)C(=O)NC1=NC(=CC=C1)C1=CC=C(C=C1)S(=O)(=O)N1[C@H](CCC1)CO | C27H29N3O6S
